US04588748
3-{[(5-Chloro-2-hydroxy-3-methylphenyl)-(4-chlorophenyl)-methylene]-amino}-propanoic acid [X1 =5-Cl, X2 =4-Cl, X3 =H, R=OH, n=2]
(5-Chloro-2-hydroxy-3-methylphenyl)-(4-chlorophenyl)-methanone (98.4 g, 0.35 mol), sodium methoxide (19 g, 0.35 mol) and β-alanine (31.2 g, 0.35 mol) are added to 2 liters of toluene and 0.5 liters of methanol. The mixture is heated gradually and the ternary azeotrope (62° C.) is distilled. After a Dean-Stark apparatus has been fitted, the residue is heated at the reflux temperature of toluene for 6 hours. The mixture is then evaporated to dryness in vacuo. The solid residue is triturated with diethyl ether and filtered off. The solid is dissolved in 1.5 liters of water. The aqueous solution is acidified by the addition of citric acid to pH 4. The solid obtained is filtered off and then dissolved in CHCl3. The chloroform solution is dried (MgSO4) and then evaporated in vacuo. The solid obtained is triturated in petroleum ether, filtered off and dried. This gives the desired acid product, melting at 137.5°-138° C.

reactant | (5-Chloro-2-hydroxy-3-methylphenyl)-(4-chlorophenyl)-methanone | 0.35 mol, 98.4 g | ClC=1C=C(C(=C(C1)C(=O)C1=CC=C(C=C1)Cl)O)C | C14H10Cl2O2
reactant | sodium methoxide | 0.35 mol, 19 g | C[O-].[Na+]
reactant | β-alanine | 0.35 mol, 31.2 g | NCCC(=O)O | C3H7NO2
reactant | toluene | 2 liters | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 0.5 liters | CO | CH4O
product | 3-{[(5-Chloro-2-hydroxy-3-methylphenyl)-(4-chlorophenyl)-methylene]-amino}-propanoic acid | ClC=1C=C(C(=C(C1)C(C1=CC=C(C=C1)Cl)=NCCC(=O)O)O)C | C17H15Cl2NO3
